* OVERALL BEST CANDIDATE: 00_Phase_1_5V_to_15V_Instrumentation_Boost_exact_1_3_g2_cand3_b4
* FITNESS SCORE: 0.9507
*
* Generated: 2026-06-04T18:02:52
* Constraint: Phase 1: 5V to 15V Instrumentation (Boost - exact 1:3)
*   vin_min = 4.5
*   vin_max = 5.5
*   vout_target = 15
*   efficiency_target = 0.78
*   power_in = 25
* Candidate: 6 of 12
* Grouped name: g2_cand3
*
* 5V to 15V Boost Converter
Vin in 0 5
L1 in sw 100u
M1 sw gate 0 0 NMOS W=1 L=1
D1 sw out DIODE
C1 out 0 220u
Rload out 0 9
Vgate gate 0 PULSE(0 12 0 1n 1n 5.8u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 1u 10m
.save V(*) I(*)
.end
